US06638929B2
According to the procedure of Example 14, a reaction mixture of 487.7 mg (3.01 mmol) of 2,4-dichloroaniline and 120.6 mg (3.01 mmol) of sodium hydride in 15 mL of anhydrous DMF is stirred at room temperature for 0.5 hour. To the mixture is added 367.0 mg (1.37 mmol) of 4-chloro-8-methoxybenzo[g]quinoline-3-carbonitrile. The resulting mixture is heated at 55° C. for 0.5 hour. After work up, 443.3 mg (82.1%) of 4-(2,4-dichloroanilino)-8-methoxybenzo[g]quinoline-3-carbonitrile is obtained as a yellow solid, mp>260° C.

reactant | 2,4-dichloroaniline | 3.01 mmol, 487.7 mg | ClC1=C(N)C=CC(=C1)Cl | C6H5Cl2N
reactant | sodium hydride | 3.01 mmol, 120.6 mg | [H-].[Na+]
reactant | 4-chloro-8-methoxybenzo[g]quinoline-3-carbonitrile | 1.37 mmol, 367.0 mg | ClC1=C(C=NC2=CC3=C(C=C12)C=CC(=C3)OC)C#N | C15H9ClN2O
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 4-(2,4-dichloroanilino)-8-methoxybenzo[g]quinoline-3-carbonitrile | 443.3 mg, 82.1% | ClC1=C(NC2=C(C=NC3=CC4=C(C=C23)C=CC(=C4)OC)C#N)C=CC(=C1)Cl | C21H13Cl2N3O
